US04328341
Ethyl 1,4-dihydro-1-methyl-4-oxo-quinoline-2-carboxylate
149 mgs (1 mMol) of 1-(2'-methylaminophenyl)ethanone was heated under reflux with 4 mMol of sodium ethoxide and 4 mMol of diethyl oxalate in 7 ml of ethanol for 11/2 hr. The reaction mixture, which contained the sodium salt of ethyl (2-N-methylaminobenzoyl)pyruvic acid was poured into dilute hydrochloric acid and extracted with chloroform. Evaporation to dryness and boiling the residue in diethyl ether afforded, after storing at 0°-5°, 160 mgs (70%) of the title product, mp 114°-5°.

reactant | 1-(2'-methylaminophenyl)ethanone | 1 mMol, 149 mgs | CNC1=C(C=CC=C1)C(C)=O | C9H11NO
reactant | sodium ethoxide | 4 mMol | [O-]CC.[Na+]
reactant | diethyl oxalate | 4 mMol | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | Ethyl 1,4-dihydro-1-methyl-4-oxo-quinoline-2-carboxylate | 160 mgs, 70% | CN1C(=CC(C2=CC=CC=C12)=O)C(=O)OCC | C13H13NO3
